US08710049B2
To a round bottom flask was added 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-one (120 mg, 0.517 mmol), CH2Cl2 (3 mL) and Na2SO4 (5 gms). The reaction was purged with argon. Then (1R,2R)-cyclohexane-1,2-diamine (118 mg, 1.033 mmol) and acetic acid (0.592 mL, 10.33 mmol) were added to the reaction. The reaction was stirred at rt for 1 hr. Then sodium triacetoxyborohydride (548 mg, 2.58 mmol) was added to the reaction and the reaction was stirred at rt overnight. The reaction was diluted with CH2Cl2 (50 ml) and filtered. The filtrate was washed with NaOH (0.5N, 30 ml), water (30 ml) and saturated aqueous NaCl (30 ml). The organic layer was dried with MgSO4, filtered and concentrated. The residue was purified by RP prep-HPLC. Two isomers were separated from RP prep-HPLC. The fractions with desired product, which eluted later than the undesired isomer, were concentrated to give (1R,2R)—N1-((6S)-2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-yl)cyclohexane-1,2-diamine (80 mg, 0.242 mmol, 46% yield) as a yellow solid. Anal. Calcd. for C18H26N4O2 m/z 330.4, found: 331.3 (M+H)+.

reactant | 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-one | 0.517 mmol, 120 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C2C(CC(C1)C2)=O | C12H12N2O3
reactant | Na2SO4 | 5 gms | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | (1R,2R)-cyclohexane-1,2-diamine | 1.033 mmol, 118 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | acetic acid | 10.33 mmol, 0.592 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.58 mmol, 548 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R)—N1-((6S)-2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-yl)cyclohexane-1,2-diamine | 0.242 mmol, 80 mg, 46% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1C2[C@H](CC(C1)C2)N[C@H]2[C@@H](CCCC2)N | C18H26N4O2
